US04873328
(RS)-3-(2,3-Dihydroxypropoxy)-6-(2-triphenylmethylhydrazino)pyridazine
Into a solution of (RS)-3-[(6-triphenylmethylazo-3-pyridazinyl)oxy]-1,2-propanediol (5.45 g) in 95% ethanol (100 ml) and tetrahydrofuran (50 ml) containing 5% palladium on charcoal (1.1 g) hydrogen was bubbled, at room temperature, for 16 hours. Removal of the catalyst and evaporation of the solvent gave a residue which was crystallized from 2-propanol to yield 3.2 g of the title compound, m.p. 174°-176° C. Mass spectrum (E.I. 70 eV, 1.5 mA), m/z=412 (M-N2H2)+, 338 (M-C3H8N2O2)+, 243 (Ph3C)+.

reactant | (RS)-3-[(6-triphenylmethylazo-3-pyridazinyl)oxy]-1,2-propanediol | 5.45 g | C1(=CC=CC=C1)C(N=NC1=CC=C(N=N1)OCC(CO)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H24N4O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 1.1 g | [Pd] | Pd
product | (RS)-3-(2,3-Dihydroxypropoxy)-6-(2-triphenylmethylhydrazino)pyridazine | 3.2 g | OC(COC=1N=NC(=CC1)NNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C26H26N4O3
